US09376436B2
4-Bromo-2,5-dimethyl-1-oxido-pyridin-1-ium (D136)
To a solution of acetyl bromide (43.09 mL, 582.81 mmol) in acetic acid (70 mL) was added 2,5-dimethyl-4-nitro-1-oxido-pyridin-1-ium (which may be prepared as described in Description 135) (9.8 g, 58.28 mmol) dropwise over 5 mins. After addition, the mixture was stirred at 80° C. overnight. The reaction mixture was poured on to ice and the solution basified to pH 8 with cold 2M sodium hydroxide. The aqueous layer was extracted with DCM (3x). The combined organics were washed with brine, dried over magnesium sulphate, filtered and evaporated to a pale yellow solid, 4-bromo-2,5-dimethyl-1-oxido-pyridin-1-ium (D136) (12.3 g);

reactant | acetyl bromide | 582.81 mmol, 43.09 mL | C(C)(=O)Br | C2H3BrO
reactant | 2,5-dimethyl-4-nitro-1-oxido-pyridin-1-ium | 58.28 mmol, 9.8 g | CC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C7H8N2O3
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-2,5-dimethyl-1-oxido-pyridin-1-ium | BrC1=CC(=[N+](C=C1C)[O-])C | C7H8BrNO
